US05273736
Step 1: Preparation of N-methyl-3-keto-9-azabicyclo[3.3.1]nonane
A 5-liter 3-necked flask was charged with 140 grams of 50% aqueous glutaric dialdehyde (Aldrich, 0.7 moles), 630 ml of water and 70.7 grams of CH3NH2.HCl (1.036 moles) which was first dissolved in 700 ml of water, 116.6 grams of acetonedicarboxylic acid (0.8 moles) which had been dissolved in 1162 ml of water, and a solution of 123.2 sodium phosphate dibasic and 10.22 grams of NaOH dissolved in 280 ml of water. The heterogeneous orange solution was stirred at room temperature for 24 hours during which time the evolution of CO2 (g) was noted.

reactant | glutaric dialdehyde | 0.7 moles, 140 grams | C(CC=O)CC=O | C5H8O2
reactant | CH3NH2.HCl | 1.036 moles, 70.7 grams | CN.Cl
reactant | acetonedicarboxylic acid | 0.8 moles, 116.6 grams | C(C(=O)CC(=O)O)C(=O)O | C5H6O5
reactant | sodium phosphate dibasic | OP(=O)([O-])[O-].[Na+].[Na+]
reactant | NaOH | 10.22 grams | [OH-].[Na+]
reactant | CO2 | C(=O)=O | CO2
solvent | water | 700 ml | O | H2O
solvent | water | 1162 ml | O | H2O
solvent | water | 280 ml | O | H2O
solvent | water | 630 ml | O | H2O
product | N-methyl-3-keto-9-azabicyclo[3.3.1]nonane | CN1C2CC(CC1CCC2)=O | C9H15NO
